US08809369B2
To a stirred solution of 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester (406.0 mg, 1.0 mmol) in tetrahydrofuran (10.0 mL) and methanol (10.0 mL) was added 3 N sodium hydroxide (2.0 mL). The reaction mixture was stirred at 80° C. for 6 h, and then diluted with water (10.0 mL), extracted with diethyl ether (20.0 mL). The organic layer was discarded. The aqueous layer was acidified with concentrated hydrochloric acid to pH 4 and extracted with ethyl acetate (40 mL×3). The combined organic layers were dried over anhydrous sodium sulfate. The solvent was removed in vacuo and afforded 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid (352.8 mg, 90%) as a light yellow powder: MS (ESI) M+1=393.1.

reactant | 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester | 1.0 mmol, 406.0 mg | COC(=O)C=1C=C2C3(CC(NC2=CC1)C1=CC(=CC=C1)N1CCOCC1)CCCC3 | C25H30N2O3
reactant | sodium hydroxide | 3 N, 2.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 10.0 mL | CO | CH4O
solvent | water | 10.0 mL | O | H2O
product | 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid | 352.8 mg, 90% | O1CCN(CC1)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C2(C1)CCCC2)C(=O)O | C24H28N2O3
